US06936612B2
The sulfide, 8-cyclopentyl-5-methyl-2-methylsulfanyl-8H-pyrido[2,3-d]pyrimidin-7-one (7.03 g, 25.51 mmol) and iodine (7.12 g, 28.06 mmol) were combined in dry dichloromethane (120 mL). The mixture was shielded from light and stirred at room temperature for 27 minutes. Bis(trifluoroacetoxy)iodobenzene (13.16 g, 30.61 mmol) was added in one portion and the reaction mixture was heated to 37° C. for 2 h, then cooled to room temperature for 2 h. 50% Aqueous (w/v) sodium thiosulfate (114 mL) was added and the two phases were stirred for 30 minutes then separated. The aqueous phase was extracted with dichloromethane (50 mL) and the combined organic phases were washed with 50% aqueous (w/v) sodium thiosulfate (50 mL) and water (4×130 mL). The organic phase was dried, filtered and concentrated in vacuo to give crude product which was purified by chromatography (15% heptane/dichloromethane) to give 8-cyclopentyl-6-iodo-5-methyl-2-methylsulfanyl-8H-pyrido[2,3-d]pyrimidin-7-one (5.94 g, 58%) as a white solid. MS (ESI); M++1: Calc'd, 401. Found 401. 1H NMR δ (300 MHz, CDCl3) 8.91 (s, 1H), 6.12-6.00 (m, 1H), 2.70 (s, 3H), 2.62 (s, 3H), 2.30-2.24 (m, 2H), 2.15-2.08 (m, 2H), 1.93-1.81 (m, 2H), 1.75-1.57 (m, 2H)

reactant | 8-cyclopentyl-5-methyl-2-methylsulfanyl-8H-pyrido[2,3-d]pyrimidin-7-one | 25.51 mmol, 7.03 g | C1(CCCC1)N1C(C=C(C2=C1N=C(N=C2)SC)C)=O | C14H17N3OS
reactant | iodine | 28.06 mmol, 7.12 g | II | I2
reactant | Bis(trifluoroacetoxy)iodobenzene | 30.61 mmol, 13.16 g | FC(C(=O)OC=1C(=C(C=CC1)I)OC(C(F)(F)F)=O)(F)F | C10H3F6IO4
reactant | sodium thiosulfate | 114 mL | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | dichloromethane | 120 mL | ClCCl | CH2Cl2
product | 8-cyclopentyl-6-iodo-5-methyl-2-methylsulfanyl-8H-pyrido[2,3-d]pyrimidin-7-one | 5.94 g, 58% | C1(CCCC1)N1C(C(=C(C2=C1N=C(N=C2)SC)C)I)=O | C14H16IN3OS
